US04145432
To a solution of 2-hydroxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate (2.5 g) in acetone (30 ml) was added 6N hydrochloric acid (1 ml) and treated in a substantially similar manner to those of Example 2(6) to give a viscous oil (2.10 g) of 2-hydroxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate.

reactant | 2-hydroxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate | 2.5 g | CC=1NC(=C(C(C1C(=O)OCCO)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C(OCC)OCC | C23H30N2O9
reactant | hydrochloric acid | 6N, 1 ml | Cl | ClH
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-hydroxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 2.10 g | CC=1NC(=C(C(C1C(=O)OCCO)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C19H20N2O8
